US03988458
Upon heating a solution of 8.4 g 4,6-dimethoxypyrimidine-5-aldehyde and 13.0 g amidinoacetic acid ethyl ester in 150 ml ethanol for 2 hours, 2,6-diamino-4-(4,6-dimethoxypyrimid-5-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 219° C (ethanol) is obtained.

reactant | 4,6-dimethoxypyrimidine-5-aldehyde | 8.4 g | COC1=NC=NC(=C1C=O)OC | C7H8N2O3
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(4,6-dimethoxypyrimid-5-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 56% | C(C)OC(=O)C1=C(NC(=C(C1C=1C(=NC=NC1OC)OC)C(=O)OCC)N)N | C17H23N5O6
